US06251911B1
2.78 ml (56 mmol) of hydrazine hydrate are added to a slurry of 9.8 9 (46.8 mmol) of 3-(morpholin-4-yl)-3methylsulfanyl-2-cyanoacrylonitrile in 60 ml of methanol and heated to boiling, with the solid dissolving. After 3.5 hours, the reaction mixture is cooled to RT, concentrated by evaporation and recrystallised from ≈70 ml of boiling ethanol, yielding 5-amino-3-(morpholin-4-yl)-1H-pyrazole-4-carbonitrile: m.p. 199-201° C.; TLC: Rf=0.19 (ethyl acetate/toluene=3 3:1).

reactant | hydrazine hydrate | 56 mmol, 2.78 ml | O.NN
reactant | 3-(morpholin-4-yl)-3methylsulfanyl-2-cyanoacrylonitrile | N1(CCOCC1)C(=C(C#N)C#N)SC | C9H11N3OS
solvent | methanol | 60 ml | CO | CH4O
product | 5-amino-3-(morpholin-4-yl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1)N1CCOCC1)C#N | C8H11N5O
